US20010027247A1
Commercially available (S)-3-phenylbutyric acid treated with rhodium-on-carbon in methanol at 60 psi and 60° C. for 3.2 hours to yield (S)-3-cyclohexylbutyric acid. This acid was then converted to the acid chloride by treatment with 1 equivalent of oxalyl chloride and a catalytic amount of DMF, in toluene for 90 minutes. 250 mg of resulting (S)-3-cyclohexylbutyroyl chloride was dissolved in 10 mL ethyl acetate, and treated with 1.5 equivalents of the dipeptide, Val-Pec-OMe hydrochloride, followed by 3 equivalents of sodium bicarbonate dissolved in 2 mL of water. The reaction mixture stirred vigorously for 2 hours. The organic solution was then washed with 1.5 M HCl, dried over sodium sulfate, and evaporated to obtain a clear, colorless oil. This product was then treated with 3 equivalents of KOH dissolved in water and tetrahydrofuran and the reaction stirred vigorously for 12 hours. The tetrahydrofuran was evaporated, and the acid product was precipitated by acidifying the aqueous solution with conc. HCl. The mixture was extracted with ethyl acetate, the organic layer dried over Na2SO4, and evaporated to yield the title compound as a white foam.

reactant | (S)-3-phenylbutyric acid | C1(=CC=CC=C1)[C@H](CC(=O)O)C | C10H12O2
solvent | methanol | CO | CH4O
catalyst | rhodium-on-carbon | [Rh] | Rh
product | (S)-3-cyclohexylbutyric acid | C1(CCCCC1)[C@H](CC(=O)O)C | C10H18O2
